US05116402
Preparation of dichloro-acetaldehyde dipropyl-acetal
A mixture of 5 g of dichloro-acetaldehyde diethyl-acetal, 30 ml of propanol and 0.1 g of 4-methyl-benzene-sulphonic acid is heated on a water-bath for 5 hours, then distilled.

reactant | dichloro-acetaldehyde diethyl-acetal | 5 g | C(C)OC(C(Cl)Cl)OCC | C6H12Cl2O2
reactant | 4-methyl-benzene-sulphonic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | propanol | 30 ml | C(CC)O | C3H8O
product | dichloro-acetaldehyde dipropyl-acetal | C(CC)OC(C(Cl)Cl)OCCC | C8H16Cl2O2
